US04347358
A solution of 37.3 g of t-butyl 3-bromomethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide in 130 ml of trifluoroacetic acid was stirred for 15 minutes at room temperature and then the solvent was removed by evaporation under vacuo. After addition of 100 ml of 1,2-dichloroethane, evaporation to dryness was repeated. Ether was added to the residue and the crystals were vacuum filtered, washed with ether and dried under vacuo to obtain 33.7 g of 3-bromomethyl-7-phenylacetamido-3-cephem-4-carboxylic acid-1-oxide as an almost colorless solid having the following characteristics:

reactant | t-butyl 3-bromomethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide | 37.3 g | BrCC=1CS([C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C20H23BrN2O5S
solvent | trifluoroacetic acid | 130 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-bromomethyl-7-phenylacetamido-3-cephem-4-carboxylic acid-1-oxide | 33.7 g | BrCC=1CS([C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C16H15BrN2O5S
